US06037342
2-(4-Methyl-1-homopiperazinyl)naphtho[1,2-d]oxazole
2-Mercapto-naphtho[1,2-d]oxazole (200 mg) was dissolved in chloroform (20 ml), N-methylhomopiperazine (2.48 ml) was added dropwise to the solution and then the mixture was stirred with heating for 2 days. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=10:1) to obtain the title compound 2-(4-methyl-1-homopiperazinyl)naphtho[1,2-d]oxazole (137 mg).

reactant | 2-Mercapto-naphtho[1,2-d]oxazole | 200 mg | SC=1OC2=C(N1)C1=CC=CC=C1C=C2 | C11H7NOS
reactant | N-methylhomopiperazine | 2.48 ml | CN1CCNCCC1 | C6H14N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-methyl-1-homopiperazinyl)naphtho[1,2-d]oxazole | 137 mg | CN1CCN(CCC1)C=1OC2=C(N1)C1=CC=CC=C1C=C2 | C17H19N3O
